US08563575B2
A mixture of 3-[4-(benzyloxy)phenyl]-1-ethyl-6-hydroxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (300 mg), sodium chlorodifluoroacetate (253 mg), K2CO3 (172 mg), DMF (3 ml), and water (0.60 mL) was refluxed overnight. The reaction mixture was poured into water, and the mixture was extracted with AcOEt. The extract was washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, eluted with 10%-40% AcOEt in hexane) to give 3-[4-(benzyloxy)phenyl]-6-(difluoromethoxy)-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (110 mg) as a pale yellow oil.

reactant | 3-[4-(benzyloxy)phenyl]-1-ethyl-6-hydroxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 300 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)O)CC)=O | C21H19N3O3
reactant | sodium chlorodifluoroacetate | 253 mg | ClC(C(=O)[O-])(F)F.[Na+]
reactant | K2CO3 | 172 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | water | 0.60 mL | O | H2O
product | 3-[4-(benzyloxy)phenyl]-6-(difluoromethoxy)-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 110 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)OC(F)F)CC)=O | C22H19F2N3O3
